US05221742
Step a: 6-(3,4-dihydro-3-oxo-1,4(2H)-benzoxazin-7-yl)-2,5-dimethyl-2,3,4,5-tetrahydropyridazin-3-one
4-(3,4-Dihydro-3-oxo-1,4(2H)-benzoxazin-7-yl)-4-oxo-3-methylbutyric acid (1.56 g, 6.0 mmoles) was dissolved in ethanol (300 ml) and methylhydrazine (0.33 ml, 6.0 mmoles) was added. The mixture was heated at reflux for 2 hours, and then cooled to yield to yield the titled compound. The crystals were collected by filtration, recrystallized from ethanol, and recollected by filtration. The solid was dried under vacuum to yield 1.0 g of the titled compound, mp 204°-206° C.

reactant | 4-(3,4-Dihydro-3-oxo-1,4(2H)-benzoxazin-7-yl)-4-oxo-3-methylbutyric acid | 6.0 mmoles, 1.56 g | O=C1COC2=C(N1)C=CC(=C2)C(C(CC(=O)O)C)=O | C13H13NO5
reactant | methylhydrazine | 6.0 mmoles, 0.33 ml | CNN | CH6N2
solvent | ethanol | 300 ml | C(C)O | C2H6O
product | 6-(3,4-dihydro-3-oxo-1,4(2H)-benzoxazin-7-yl)-2,5-dimethyl-2,3,4,5-tetrahydropyridazin-3-one | O=C1COC2=C(N1)C=CC(=C2)C=2C(CC(N(N2)C)=O)C | C14H15N3O3
